US08217069B2
2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxymethyloxyaniline
To a solution of 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitrophenol (0.52 g) and N,N-diisopropylethylamine (0.52 mL) in methylene chloride (5 mL) was added (chloromethyl)methyl ether (0.17 mL) under ice-cooling, and the mixture was stirred at room temperature for 3 days. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (7.5 mL). To the solution were added methanol (7.5 mL) and nickel(II) bromide (17 mg). To the mixture was added sodium borohydride (0.17 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−1/1) to give the title compound (0.4 g).

reactant | 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitrophenol | 0.52 g | ClC=1C(=CC(=C(C1)O)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C14H10ClF2NO5
reactant | N,N-diisopropylethylamine | 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (chloromethyl)methyl ether | 0.17 mL | ClCOC | C2H5ClO
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxymethyloxyaniline | 0.4 g | ClC1=C(N)C=C(C(=C1)OCOC)OCC1=C(C(=CC=C1OC)F)F | C16H16ClF2NO4
